Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3],5.19892686212
[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[O:14]1>>[H:1][C:2]([H:3])([H:4])[C:5][O:14][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.8112086535400005
[C:8]([H:9])([C:10][H:11])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:12][H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-2.80831305232
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:9].[O:8],6.078855251749999
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.1588841537
[O:1][C:2]#[C:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1],7.35061438518
[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][H:7])[O:9][H:10].[H:8],2.12244554121
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],5.007315419059999
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8][H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-3.76240850151
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4],2.7962449213200005
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:5].[O:1]=[C:2]=[C:3]([O:4])[C:6]([H:7])([H:8])[H:9],3.1207623229
[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.04283195058
[H:1][C:2]#[C:3][C:4][C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.78752190699
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.53680665776
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.92338406547
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.96110872087
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.00123495056
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],1.62838721428
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.39529071003
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:11]([H:12])([H:13])[H:14])([H:6])[C:9][H:10],1.94066380996
[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.2036662286700002
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8].[O:9][H:10],2.5867547445400003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.82502347055
[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.14033728422
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-6.352829414330001
[H:1][O:2][O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.0969767089299999
[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],3.62258287681
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][O:4],4.62450523851
